US04450169
2.07 g of (2-phenoxy-5-thiazolyl)-methanol were added to a solution of (1R,3S) 2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane-1-carboxylic acid chloride prepared from 1.68 g of the corresponding acid in 20 ml of benzene and 0.81 ml of pyridine were added dropwise thereto. The mixture was stirred at 20° C. for 17 hours and was poured into dilute aqueous hydrochloric acid. The decanted aqueous phase was extracted with ether and the combined organic phases were washed with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and eluted with an 8-2 cyclohexane-ethyl acetate mixture to obtain 1.6 g of (2-phenoxy-5-thiazolyl)-methyl (1R,3S) 2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane -1-carboxylate.

reactant | (2-phenoxy-5-thiazolyl)-methanol | 2.07 g | O(C1=CC=CC=C1)C=1SC(=CN1)CO | C10H9NO2S
reactant | (1R,3S) 2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane-1-carboxylic acid chloride | CC1([C@@H]([C@@H]1C=C(C)C)C(=O)Cl)C | C10H15ClO
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 0.81 ml | N1=CC=CC=C1 | C5H5N
product | (2-phenoxy-5-thiazolyl)-methyl (1R,3S) 2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane -1-carboxylate | 1.6 g | CC1([C@@H]([C@@H]1C=C(C)C)C(=O)OCC1=CN=C(S1)OC1=CC=CC=C1)C | C20H23NO3S
